* C:\Users\Jimbles\ScouseTom\src\schematics\Output_Impedance_Tester\sim\Parallel_Droop.asc
R1 Vload 0 1Meg
R2 Vload 0 {X}
I1 0 Vload 100µ AC 100u
V1 Vdd 0 5
V2 0 Vee 5
XU1 Vload Vbuff Vdd Vee Vbuff ADA4522
XU2 Vbuff N001 Vdd Vee Vamp ADA4522
R3 Vamp N001 100k
R4 N001 0 10k
I2 0 Vload SINE(0 100u 1k) AC 0
.step param X 500 10000 500
.op 5m
.inc C:\Users\Jimbles\ScouseTom\lib\spice\ADA4522.cir
;tran 5m
.backanno
.end
